US08754075B2
In a manner analogous to that described for the preparation of sulfinyl imine A2.1 the reaction of 2-fluoro-1-(2-fluoro-phenyl)-ethanone with (R)-tert-butylsulfinamide yielded the (R)-2-methyl-propane-2-sulfinic acid [2-fluoro-1-(2-fluoro-phenyl)-eth-(Z)-ylidene]-amide (52% of theory) as an orange oil. MS (ISP): m/z=260.2 [M+H]+.

reactant | 2-fluoro-1-(2-fluoro-phenyl)-ethanone | FCC(=O)C1=C(C=CC=C1)F | C8H6F2O
reactant | (R)-tert-butylsulfinamide | C(C)(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-propane-2-sulfinic acid [2-fluoro-1-(2-fluoro-phenyl)-eth-(Z)-ylidene]-amide | 52% | FC\C(\C1=C(C=CC=C1)F)=N/[S@](=O)C(C)(C)C | C12H15F2NOS
